US07220880B2
(S,S)-3-[4-(1-tert-Butoxycarbonyl-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester
To a solution of 2-(R)-hydroxypropionic acid tert-butyl ester (1.23 g, 8.44 mmol) and (S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (2.01 g, 8.44 mmol) in THF (100 ml) was added the triphenyl phosphine (2.21 g, 8.44 mmol). The mixture was cooled to 0° C. and added the DIAD (diisopropyl azodicarboxylate) (1.70 g, 8.44 mmol) dropwise over 5 minutes. The reaction mixture was stirred for 18 hours while warmed to room temperature. The reaction was quenched with water (2 ml) and concentrated to a residue, purified by silica gel chromatography with 20% EtOAc/Hexanes to afford product (0.99 g, 32%) and recovered starting material ((S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester, 0.85 g).

reactant | 2-(R)-hydroxypropionic acid tert-butyl ester | 8.44 mmol, 1.23 g | C(C)(C)(C)OC([C@@H](C)O)=O | C7H14O3
reactant | (S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 8.44 mmol, 2.01 g | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | triphenyl phosphine | 8.44 mmol, 2.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 8.44 mmol, 1.70 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (S,S)-3-[4-(1-tert-Butoxycarbonyl-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester | 0.99 g, 32% | C(C)OC([C@H](CC1=CC=C(C=C1)O[C@@H](C)C(=O)OC(C)(C)C)OCC)=O | C20H30O6
